US05041679
9.86 Grams of methyl acetoacetate were dissolved in 15 ml of water, and 12.67 g of a 30% aqueous sodium hydroxide solution were added thereto by drops while cooling the mixture to 25° C. or less. After having been stirred at 30°-35° C. for 3 hours, the mixture was adjusted to pH 7.0 with a concentrated aqueous hydrochloric acid solution. Thereafter, 1.10 g of sodium butyrate and 2.42 g of tetrabutylammonium bromide were added thereto and then an additional concentrated aqueous hydrochloric acid solution was added to the mixture so that the mixture was adjusted to pH 6.8. Further, 29.45 g of a toluene solution containing 31.2% of 3-(4-bromophenylthio)propanal were added thereto and was stirred at 45°-50° C. for 9 hours. The organic layer separated from the mixture was washed with a 5% aqueous acetic acid solution and then with a saturated aqueous sodium chloride solution. Then the layer was dried over anhydrous magnesium sulfate. Removing the solvent from the layer under reduced pressure gave 14.54 g of crude 6-(4-bromophenylthio)-4-hydroxy-2-hexanone (purity: 81.8%, yield: 99.5%). A purified product was obtained by recrystallization from diisopropyl ether. The purified product had a melting point of 53.0-54.0° C.

reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium butyrate | 1.10 g | C(CCC)(=O)[O-].[Na+]
reactant | 3-(4-bromophenylthio)propanal | BrC1=CC=C(C=C1)SCCC=O | C9H9BrOS
solvent | water | 15 ml | O | H2O
catalyst | tetrabutylammonium bromide | 2.42 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 29.45 g | C1(=CC=CC=C1)C | C7H8
product | 6-(4-bromophenylthio)-4-hydroxy-2-hexanone | 14.54 g, yield: 99.5% | BrC1=CC=C(C=C1)SCCC(CC(C)=O)O | C12H15BrO2S
